US07132449B2
A solution of lithium hydroxide monohydrate (0.0443 g, 1.056 mmol) in water (3 ml) was added drop-wise over 1 minute to a solution of 2-(biphenyl-4-ylmethoxy)-4-methyl-pentanoic acid methyl ester (0.11 g, 0.3521 mmol) in tetrahydrofuran:methanol 2:1 (15 ml) at 0° C. The mixture was stirred at ambient temperature for 16 hours then poured into saturated aqueous sodium chloride solution (10 ml). The aqueous layer was extracted with diethyl ether (2×10 ml) which was discarded. The aqueous layer was acidified with 1M hydrochloric acid to pH (1˜2), then the product was extracted into dichloromethane (3×10 ml). The combined dichloromethane layers were washed with water (2×10 ml), saturated aqueous sodium chloride solution (2×10 ml) then dried (Na2SO4) and the solvents removed in vacuo to leave 2-(biphenyl-4-ylmethoxy)-4-methyl-pentanoic acid as a colourless oil (0.048 g, 45.69%). TLC (single UV spot, Rf=0.2, methanol:dichloromethane 0.5:9.5), HPLC-MS (297.1 [M−1)+, 321.1 [M+Na]+, 619.3 [2M+Na]+).

reactant | lithium hydroxide monohydrate | 1.056 mmol, 0.0443 g | O.[OH-].[Li+]
reactant | 2-(biphenyl-4-ylmethoxy)-4-methyl-pentanoic acid methyl ester | 0.3521 mmol, 0.11 g | COC(C(CC(C)C)OCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C20H24O3
reactant | sodium chloride | 10 ml | [Cl-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | tetrahydrofuran methanol | 15 ml | O1CCCC1.CO
product | 2-(biphenyl-4-ylmethoxy)-4-methyl-pentanoic acid | 0.048 g, 45.69% | C1(=CC=C(C=C1)COC(C(=O)O)CC(C)C)C1=CC=CC=C1 | C19H22O3
